US03993683
[1-(2'-Fluoro-4-biphenylyl)-ethylsulfonyl]-acetic acid
170 gm (0.556 mol) of a diastereoisomeric mixture of [1-(2'-fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid were dissolved in 1.7 liters of acetone, and a solution of 19.9 gm (0.195 mol) of concentrated sulfuric acid in 70 ml of water was added. While stirring, 67.2 gm (0.425 mol) of potassium permanganate were added in small portions, and the temperature was maintained at 20°-25° C. The mixture was stirred for 1 hour, the manganese dioxide was suction-filtered off, the filter cake was washed with acetone, and the filtrate was evaporated in vacuo. The residue was diluted with 4 liters of glacial acetic acid, and the precipitated crystalline reaction product was suction-filtered off, washed, dried and recrystallized from toluene. Yield: 158.2 gm (88.5% of theory); m.p. 144°-146° C.

reactant | [1-(2'-fluoro-4-biphenylyl)-ethylsulfinyl]-acetic acid | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)S(=O)CC(=O)O | C16H15FO3S
reactant | sulfuric acid | 0.195 mol, 19.9 gm | S(O)(O)(=O)=O | H2O4S
reactant | potassium permanganate | 0.425 mol, 67.2 gm | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 1.7 liters | CC(=O)C | C3H6O
solvent | water | 70 ml | O | H2O
product | [1-(2'-Fluoro-4-biphenylyl)-ethylsulfonyl]-acetic acid | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)S(=O)(=O)CC(=O)O | C16H15FO4S
